US06713474B2
To a solution of cis-5-iodo-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.100 g, 0.227 mmol) in ethylene glycol dimethyl ether (3 mL) and water (1.5 mL) under nitrogen was added N2-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazol-2-amine (0.100 g, 0.283 mmol, 1.25 equiv.), tetrakis(triphenylphosphine) palladium (0) (0.013 mg, 0.011 mmol, 0.05 equiv), and sodium carbonate monohydrate (0.070 mg, 0.568 mmol, 2.5 equiv). The solution was stirred at 80° C. for 21 hours. The resulting yellow mixture was concentrated in vacuo to give a yellow oil. Purification by preparative HPLC (25 to 100% CH3CN in 0.1 N aqueous ammonium acetate over 20 minutes at 21 mL/min. using a 8μ Hypersil HS C18, 250×21 mm column, tr=6.4-8.5 min.) afforded cis-N2-(4-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine as a cream solid (34 mg, 28%). RP-HPLC (25 to 100% CH3CN in 0.1 N aqueous ammonium acetate over 10 min at 1 mL/min using a Hypersil HS C18, 250×4.6 mm column) tr=7.167 min., 98%; and m/z 540.8(MH+).

reactant | cis-5-iodo-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.227 mmol, 0.100 g | IC1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C17H25IN6
reactant | N2-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazol-2-amine | 0.283 mmol, 0.100 g, 1.25 equiv. | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC=1OC2=C(N1)C=CC=C2 | C19H20BFN2O3
reactant | sodium carbonate monohydrate | 0.568 mmol, 0.070 mg, 2.5 equiv | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 3 mL | COCCOC | C4H10O2
solvent | water | 1.5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.011 mmol, 0.013 mg, 0.05 equiv | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | cis-N2-(4-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine | 34 mg, 28% | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC=2OC1=C(N2)C=CC=C1)F)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C30H33FN8O
